US05236900
(E)-10-Dodecen-1-aminehydrochloride
10-Dodecyn-1-amine hydrochloride (2.0 g, 9.2 mmol) and 1 ml THF were added to 30 ml diglyme. Lithium aluminum hydride (2 g, 53 mmol) were added and the mixture was heated at 150° C. for 96 hours. The mixture was cooled and 15% aqueous NaOH was added and the mixture was extracted with Et2O. The extracts were dried over Na2SO4, filtered, and the solvent was evaporated. The residue was chromatographed on silica gel eluting with CH2Cl2 -MeOH-NH4OH (150:90:1) to obtain an oil. The oil was dissolved in Et2O, 9 ml 1N HCl-dioxane solution were added, and solvent was evaporated to leave the title compound (0.9 g, 45% yield): C12H25N·HCl (219.80); 1H-NMR (CDCl3) δ8.3 (br s,3), 5.41 (m,2), 2.99 (m,2), 1.97 (m,2), 1.8 (m,2), 1.64 (d,3), 1.4-1.2 (m,12). Anal. calcd.: C, 65.57; H, 11.92; N, 6.37; found: C, 65.56; H, 11.55; N, 6.15.

reactant | 10-Dodecyn-1-amine hydrochloride | 9.2 mmol, 2.0 g | Cl.C(CCCCCCCCC#CC)N
reactant | Lithium aluminum hydride | 53 mmol, 2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | [OH-].[Na+]
reactant | HCl dioxane | 1N, 9 ml | Cl.O1CCOCC1
solvent | Et2O | CCOCC | C4H10O
solvent | diglyme | 30 ml | COCCOCCOC | C6H14O3
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | (E)-10-Dodecen-1-aminehydrochloride | 0.9 g, 45% yield | Cl.C(CCCCCCCC\C=C\C)N | InChI=1S/C12H25N.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13;/h2-3H,4-13H2,1H3;1H/b3-2+;
